US06248757B1
4.2. Ethyl 8-amino-7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylate
37 g (0.165 mol) of ethyl 8-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylate dissolved in 370 ml of dioxane are introduced into a 1 l round-bottomed flask, 23.2 g (0.174 mol) of N-chlorosuccinimide are added, at room temperature and with magnetic stirring, and the mixture is stirred overnight. It is diluted with water, extracted with ethyl acetate and, after the usual processing of the organic phase, 42 g of compound are obtained, which product is recrystallized from a mixture of diethyl ether and diisopropyl ether.

reactant | ethyl 8-amino-2,3-dihydro-1,4-benzodioxine-5-carboxylate | 0.165 mol, 37 g | NC1=CC=C(C2=C1OCCO2)C(=O)OCC | C11H13NO4
reactant | N-chlorosuccinimide | 0.174 mol, 23.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dioxane | 370 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Ethyl 8-amino-7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylate | 42 g | NC1=C(C=C(C2=C1OCCO2)C(=O)OCC)Cl | C11H12ClNO4
